US07576215B2
[4-{3-[(2,6-DIFLUOROBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 2-Bromomethyl-1,3-difluorobenzene following the procedure of Example 478: MS (ESI) m/z 520.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Bromomethyl-1,3-difluorobenzene | BrCC1=C(C=CC=C1F)F | C7H5BrF2
product | [4-{3-[(2,6-DIFLUOROBENZYL)OXY]PHENYL}-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | FC1=C(COC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)C2=CC=CC=C2)C(=CC=C1)F | C30H18F5NO2
